US06706725B1
j) Methyl (E)-5-{5-[3,4-bis(tert-Butyldimethylsilanyloxymethyl)phenoxymethyl]-2-thienyl}-4-heptenoate
4.3 g (7.1 mmol) of (E)-5-{5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-2-thienyl}-4-heptenoic acid are dissolved in 70 mL of 2-butanone, and 1.1 g of potassium carbonate (7.8 mmol) and 2.2 mL of iodomethane (35 mmol) are added. The medium is refluxed for 12 hours, cooled and filtered. The filtrate is concentrated under reduced pressure and then purified by chromatography on a column of silica. A yellow oil is obtained (m=4.34 g; Y=98%).

reactant | (E)-5-{5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-2-thienyl}-4-heptenoic acid | 7.1 mmol, 4.3 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC2=CC=C(S2)/C(=C/CCC(=O)O)/CC)C=CC1CO[Si](C)(C)C(C)(C)C | C32H52O5SSi2
reactant | potassium carbonate | 7.8 mmol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 35 mmol, 2.2 mL | IC | CH3I
solvent | 2-butanone | 70 mL | CC(CC)=O | C4H8O
product | Methyl (E)-5-{5-[3,4-bis(tert-Butyldimethylsilanyloxymethyl)phenoxymethyl]-2-thienyl}-4-heptenoate | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC2=CC=C(S2)/C(=C/CCC(=O)OC)/CC)C=CC1CO[Si](C)(C)C(C)(C)C | C33H54O5SSi2
